US05104888
t-Butyl α-{5-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2,4-dioxothiazolidin-3yl}acetate
0.87 g of t-butyl bromoacetate was added dropwise, whilst ice-cooling, to a mixture of 1 g of 5-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl ]thiazolidine-2,4-dione [prepared as described in Example 3(b) of copending U.S. Ser. No. 644,996], 0.43 g of anhydrous potassium carbonate, and 8 ml of acetone. The resulting mixture was stirred for 2 hours at room temperature and then allowed to stand for 2 days, also at room temperature. The reaction mixture was then poured into ice-water and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was subjected to silica gel column chromatography (eluent:benzene) to give the title compound.

reactant | t-butyl bromoacetate | 0.87 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 5-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl ]thiazolidine-2,4-dione | 1 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C26H29NO6S
reactant | potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | t-Butyl α-{5-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2,4-dioxothiazolidin-3yl}acetate | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(N(C(S2)=O)CC(=O)OC(C)(C)C)=O)C=C1)C | C32H39NO8S
